US08604019B2
Step 1. Preparation of 1-(2,3-Dihydro-1,4-benzothiazepin-4(5H)-yl)ethanone
To a solution of 2,3,4,5-tetrahydro-1,4-benzothiazepine (5 g, 30.3 mmol) in dry dichloromethane (100 mL) was added triethylamine (5.06 mL, 36.3 mmol) at room temperature, followed by the addition of acetic anhydride (3.43 mL, 36.3 mmol) dropwise at 0° C. under nitrogen. The resulting solution was stirred for 1 hour whilst allowing the temperature to rise slowly to room temperature. The mixture was washed with brine (50 mL×2), dried over sodium sulfate, filtered and concentrated in vacuo to afford 6.28 g of product as yellow oil, which was used for next step without further purification.

reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine | 30.3 mmol, 5 g | S1CCNCC2=C1C=CC=C2 | C9H11NS
reactant | triethylamine | 36.3 mmol, 5.06 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 36.3 mmol, 3.43 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(2,3-Dihydro-1,4-benzothiazepin-4(5H)-yl)ethanone | 6.28 g | S1CCN(CC2=C1C=CC=C2)C(C)=O | C11H13NOS
